// Generated for: spectre
// Generated on: Dec 26 00:34:13 2023
// Design library name: mylib
// Design cell name: op_test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters vac=100m vcom=1.2
include "/home/vlsidesign/assistant1/SPDK18MMRF_1833_CDS_v2.0/smic18mmrf_1P6M_200709151808/models/spectre/allModels"

// Library name: mylib
// Cell name: cascode_op
// View name: schematic
subckt cascode_op vin\+ vin\- vout
    M27 (vdd! net02 net063 0) n33 w=(5u) l=500n as=2.4p ad=2.4p ps=10.96u \
        pd=10.96u m=(1)*(1)
    M25 (net063 net037 0 0) n33 w=(5u) l=500n as=2.4p ad=2.4p ps=10.96u \
        pd=10.96u m=(1)*(1)
    M24 (net03 net063 net037 0) n33 w=(350n) l=350n as=211.4f ad=211.4f \
        ps=1.88u pd=1.88u m=(1)*(1)
    M26 (net02 net02 0 0) n33 w=(500n) l=10u as=240f ad=240f ps=1.96u \
        pd=1.96u m=(1)*(1)
    M20 (vout net037 0 0) n33 w=(62.5u) l=500n as=30p ad=30p ps=125.96u \
        pd=125.96u m=(1)*(1)
    M13 (net35 net13 0 0) n33 w=(13.5u) l=500n as=6.48p ad=6.48p ps=27.96u \
        pd=27.96u m=(1)*(1)
    M12 (net13 net14 net35 0) n33 w=(13.5u) l=500n as=6.48p ad=6.48p \
        ps=27.96u pd=27.96u m=(1)*(1)
    M11 (net9 net037 0 0) n33 w=(62.5u) l=500n as=30p ad=30p ps=125.96u \
        pd=125.96u m=(1)*(1)
    M10 (net34 net13 0 0) n33 w=(13.5u) l=500n as=6.48p ad=6.48p ps=27.96u \
        pd=27.96u m=(1)*(1)
    M9 (net047 net14 net34 0) n33 w=(13.5u) l=500n as=6.48p ad=6.48p \
        ps=27.96u pd=27.96u m=(1)*(1)
    M2 (net26 vin\+ net2 0) n33 w=(13.5u) l=500n as=6.48p ad=6.48p \
        ps=27.96u pd=27.96u m=(1)*(1)
    M1 (net24 vin\- net2 0) n33 w=(13.5u) l=500n as=6.48p ad=6.48p \
        ps=27.96u pd=27.96u m=(1)*(1)
    M0 (net2 net037 0 0) n33 w=(50u) l=500n as=24p ad=24p ps=100.96u \
        pd=100.96u m=(1)*(1)
    M22 (net03 net03 vdd! vdd!) p33 w=(5u) l=500n as=2.4p ad=2.4p \
        ps=10.96u pd=10.96u m=(1)*(1)
    M21 (net063 net03 vdd! vdd!) p33 w=(5u) l=500n as=2.4p ad=2.4p \
        ps=10.96u pd=10.96u m=(1)*(1)
    M18 (0 net047 net029 vdd!) p33 w=(20.5u) l=500n as=9.84p ad=9.84p \
        ps=41.96u pd=41.96u m=(1)*(1)
    M19 (vout net029 vdd! vdd!) p33 w=(50u) l=500n as=24p ad=24p \
        ps=100.96u pd=100.96u m=(1)*(1)
    M17 (net029 net10 vdd! vdd!) p33 w=(50u) l=500n as=24p ad=24p \
        ps=100.96u pd=100.96u m=(1)*(1)
    M8 (net047 net9 net26 vdd!) p33 w=(50u) l=500n as=24p ad=24p \
        ps=100.96u pd=100.96u m=(1)*(1)
    M7 (net14 net9 net24 vdd!) p33 w=(50u) l=500n as=24p ad=24p ps=100.96u \
        pd=100.96u m=(1)*(1)
    M6 (net10 net9 net36 vdd!) p33 w=(50u) l=500n as=24p ad=24p ps=100.96u \
        pd=100.96u m=(1)*(1)
    M5 (net36 net10 vdd! vdd!) p33 w=(50u) l=500n as=24p ad=24p ps=100.96u \
        pd=100.96u m=(1)*(1)
    M4 (net26 net10 vdd! vdd!) p33 w=(50u) l=500n as=24p ad=24p ps=100.96u \
        pd=100.96u m=(1)*(1)
    M3 (net24 net10 vdd! vdd!) p33 w=(50u) l=500n as=24p ad=24p ps=100.96u \
        pd=100.96u m=(1)*(1)
    R10 (vdd! net02) resistor r=95K
    R8 (net037 0) resistor r=95K
    R7 (net047 net21) resistor r=12K
    R1 (net14 net13) resistor r=3.3K
    R0 (net10 net9) resistor r=3.5K
    C0 (vout net21) capacitor c=3p
ends cascode_op
// End of subcircuit definition.

// Library name: mylib
// Cell name: op_test
// View name: schematic
I3 (net04 net06 net07) cascode_op
I0 (net04 net06 net7) cascode_op
V4 (net04 net06) vsource dc=vac type=dc
V1 (net06 0) vsource dc=vcom type=dc
V0 (vdd! 0) vsource dc=3.3 type=dc
R0 (net7 0) resistor r=500K
C1 (net07 0) capacitor c=10p
C0 (net7 0) capacitor c=10p
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=vac start=0 stop=30u oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
