// Generated for: spectre
// Generated on: Jan  4 11:15:59 2024
// Design library name: mylib
// Design cell name: op_test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters vac=1 vcom=1.6
include "/home/vlsidesign/assistant1/SPDK18MMRF_1833_CDS_v2.0/smic18mmrf_1P6M_200709151808/models/spectre/allModels"

// Library name: mylib
// Cell name: cascode_op
// View name: schematic
subckt cascode_op vin\+ vin\- vout
    M20 (vout net037 0 0) n33 w=(62.5u) l=500n as=30p ad=30p ps=125.96u \
        pd=125.96u m=(1)*(1)
    M27 (vdd! net02 net063 0) n33 w=(5u) l=500n as=2.4p ad=2.4p ps=10.96u \
        pd=10.96u m=(1)*(1)
    M25 (net063 net037 0 0) n33 w=(5u) l=500n as=2.4p ad=2.4p ps=10.96u \
        pd=10.96u m=(1)*(1)
    M24 (net03 net063 net037 0) n33 w=(350n) l=350n as=211.4f ad=211.4f \
        ps=1.88u pd=1.88u m=(1)*(1)
    M26 (net02 net02 0 0) n33 w=(500n) l=10u as=240f ad=240f ps=1.96u \
        pd=1.96u m=(1)*(1)
    M13 (net34 net13 0 0) n33 w=(10u) l=500n as=4.8p ad=4.8p ps=20.96u \
        pd=20.96u m=(1)*(1)
    M12 (net13 net9 net34 0) n33 w=(20u) l=500n as=9.6p ad=9.6p ps=40.96u \
        pd=40.96u m=(1)*(1)
    M11 (net9 net037 0 0) n33 w=(625n) l=500n as=300f ad=300f ps=2.21u \
        pd=2.21u m=(1)*(1)
    M10 (net35 net13 0 0) n33 w=(10u) l=500n as=4.8p ad=4.8p ps=20.96u \
        pd=20.96u m=(1)*(1)
    M9 (net056 net9 net35 0) n33 w=(20u) l=500n as=9.6p ad=9.6p ps=40.96u \
        pd=40.96u m=(1)*(1)
    M2 (net26 vin\+ net2 0) n33 w=(20u) l=500n as=9.6p ad=9.6p ps=40.96u \
        pd=40.96u m=(1)*(1)
    M1 (net24 vin\- net2 0) n33 w=(20u) l=500n as=9.6p ad=9.6p ps=40.96u \
        pd=40.96u m=(1)*(1)
    M0 (net2 net037 0 0) n33 w=(75u) l=500n as=36p ad=36p ps=150.96u \
        pd=150.96u m=(1)*(1)
    M32 (net35 vin\+ net020 vdd!) p33 w=(13.5u) l=500n as=6.48p ad=6.48p \
        ps=27.96u pd=27.96u m=(1)*(1)
    M22 (net03 net03 vdd! vdd!) p33 w=(5u) l=500n as=2.4p ad=2.4p \
        ps=10.96u pd=10.96u m=(1)*(1)
    M21 (net063 net03 vdd! vdd!) p33 w=(5u) l=500n as=2.4p ad=2.4p \
        ps=10.96u pd=10.96u m=(1)*(1)
    M18 (0 net056 net029 vdd!) p33 w=(5.2u) l=500n as=2.496p ad=2.496p \
        ps=11.36u pd=11.36u m=(1)*(1)
    M19 (vout net029 vdd! vdd!) p33 w=(50u) l=500n as=24p ad=24p \
        ps=100.96u pd=100.96u m=(1)*(1)
    M30 (net020 net03 vdd! vdd!) p33 w=(75u) l=500n as=36p ad=36p \
        ps=150.96u pd=150.96u m=(1)*(1)
    M28 (net34 vin\- net020 vdd!) p33 w=(13.5u) l=500n as=6.48p ad=6.48p \
        ps=27.96u pd=27.96u m=(1)*(1)
    M17 (net029 net10 vdd! vdd!) p33 w=(10u) l=500n as=4.8p ad=4.8p \
        ps=20.96u pd=20.96u m=(1)*(1)
    M8 (net056 net9 net26 vdd!) p33 w=(50u) l=500n as=24p ad=24p \
        ps=100.96u pd=100.96u m=(1)*(1)
    M7 (net13 net9 net24 vdd!) p33 w=(50u) l=500n as=24p ad=24p ps=100.96u \
        pd=100.96u m=(1)*(1)
    M6 (net10 net9 net36 vdd!) p33 w=(500n) l=500n as=240f ad=240f \
        ps=1.96u pd=1.96u m=(1)*(1)
    M5 (net36 net10 vdd! vdd!) p33 w=(500n) l=500n as=240f ad=240f \
        ps=1.96u pd=1.96u m=(1)*(1)
    M4 (net26 net10 vdd! vdd!) p33 w=(50u) l=500n as=24p ad=24p ps=100.96u \
        pd=100.96u m=(1)*(1)
    M3 (net24 net10 vdd! vdd!) p33 w=(50u) l=500n as=24p ad=24p ps=100.96u \
        pd=100.96u m=(1)*(1)
    R10 (vdd! net02) resistor r=95K
    R8 (net037 0) resistor r=95K
    R7 (net056 net21) resistor r=6.5K
    R0 (net10 net9) resistor r=500K
    C0 (vout net21) capacitor c=4p
ends cascode_op
// End of subcircuit definition.

// Library name: mylib
// Cell name: op_test
// View name: schematic
V2 (net04 net06) vsource mag=1 type=sine ampl=vac freq=1K
V1 (net06 0) vsource dc=vcom type=dc
V0 (vdd! 0) vsource dc=3.3 type=dc
I4 (net04 net011 net011) cascode_op
C0 (net011 0) capacitor c=10p
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=vcom start=0 stop=3.3 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
ac ac start=1 stop=1G annotate=status 
tran tran stop=10m write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
pz ( net7 0 ) pz iprobe=V2 freq=1 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
